US05602161
4-[1-(4-Isopropylbenzyl)tetrazol-5-yl]phenyl pivalate
Phosphorus pentachloride (0,249 g) was added to a solution of N-(4-isopropylbenzyl)-4-pivaloyloxybenzamide (0.353 g) in dichloeomethane (5 ml) under ice cooling, and stirring was continued for 2 h. This reaction mixture was added dropwise to a solution of sodium azide (0.78 g) in H2O (10 ml) at room temperature, and stirring was continued for 1 h. The mixture was extracted with chloroform, and the extract was washed with water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel with ethyl acetate-benzene (5/100) as an eluate and crystallization from hexane gave 0.2 g of the title compound.

reactant | Phosphorus pentachloride | 0,249 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-(4-isopropylbenzyl)-4-pivaloyloxybenzamide | 0.353 g | C(C)(C)C1=CC=C(CNC(C2=CC=C(C=C2)OC(C(C)(C)C)=O)=O)C=C1 | C22H27NO3
reactant | sodium azide | 0.78 g | [N-]=[N+]=[N-].[Na+]
solvent | H2O | 10 ml | O | H2O
product | 4-[1-(4-Isopropylbenzyl)tetrazol-5-yl]phenyl pivalate | 0.2 g | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C1=NN=NN1CC1=CC=C(C=C1)C(C)C | C22H26N4O2
